US05204326
Preparation of Boc-Gln-Thr(Bzl)-Pro-Gln-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2
By using 2.65 g of Boc-Thr(Bzl)-Pro-Gln-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 and 907 mg of Boc-Gln-ONp, and the same procedure as in Reference Example 18 was repeated to obtain 2.74 g (yield: 95.5%) of the above-mentioned objective product.

reactant | Boc-Thr(Bzl)-Pro-Gln-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 | 2.65 g | N([C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)NCC(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)N2[C@H](C(=O)N)CCC2)CCC1)C(=O)OC(C)(C)C | C82H108N14O20
reactant | Boc-Gln-ONp | 907 mg | N([C@@H](CCC(N)=O)C(=O)OC1=CC=C([N+](=O)[O-])C=C1)C(=O)OC(C)(C)C | C16H21N3O7
product | Boc-Gln-Thr(Bzl)-Pro-Gln-Thr(Bzl)-Asn-Thr(Bzl)-Gly-Ser(Bzl)-Gly-Thr(Bzl)-Pro-NH2 | 2.74 g, yield: 95.5% | N([C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)N1[C@H](C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)NCC(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H]([C@H](OCC2=CC=CC=C2)C)C(=O)N2[C@H](C(=O)N)CCC2)CCC1)C(=O)OC(C)(C)C | C87H116N16O22
